US06713474B2
In a similar manner to Example 1, 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine was reacted with 4-tosyloxytetrahydropyran to give after flash column chromatography 5-(4-phenoxyphenyl)-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 193-193.5° C.

reactant | 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H14N4O
reactant | 4-tosyloxytetrahydropyran | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCOCC1 | C12H16O4S
product | 5-(4-phenoxyphenyl)-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCOCC2 | C23H22N4O2
